US08222416B2
A mixture of {1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester (0.75 g, 1.21 mmol) and tetrabutylammonium fluoride in tetrahydrofuran (1 M, 24 mL, 24 mmol) was stirred for 3 h at 60° C. After cooling, the mixture was poured into brine (15 mL), extracted with ethyl acetate (2×100 mL), washed with a saturated aqueous ammonium chloride solution (3×50 mL), dried over anhydrous sodium sulfate and then concentrated in vacuo to give {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester (0.58 g, 100%) which was used in the next step without purification: LC/MS m/e calcd for C26H31N3O4S [M+H]+ 482.62, observed 482.2

reactant | {1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester | 1.21 mmol, 0.75 g | C(C)(C)(C)OC(NC=1C=C2C(=NC1)N(C(=C2)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C)S(=O)(=O)C2=CC=CC=C2)=O | C32H35N3O6S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 24 mmol, 1 M, 24 mL | O1CCCC1 | C4H8O
solvent | brine | 15 mL | [Cl-].[Na+].O
product | {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-carbamic acid tert-butyl ester | 0.58 g, 100% | C(C)(C)(C)OC(NC=1C=C2C(=NC1)NC(=C2)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C)=O | C26H31N3O4S
